US04250121
Example 3 is repeated, while replacing ruthenium chloride with ruthenium trifluoroacetate, the other conditions of the example being unchanged. 13.8 m.moles butanal and 32 m.moles 1,1-dibutoxybutane have been formed.

reactant | butanal | C(CCC)=O | C4H8O
catalyst | ruthenium trifluoroacetate | FC(C(=O)[O-])(F)F.[Ru+3].FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F
product | 1,1-dibutoxybutane | C(CCC)OC(CCC)OCCCC | C12H26O2
